US06025477
Antibody which binds specifically to atherosclerotic plaque (1 m mole) is dialyzed st 4° C. against a buffer solution of 0.01M PBS, pH 6.8 overnight. To this solution is added 50 nmole of 3-carboxy-7-hydroxycoumarin. The solution is added 50 mnole of 3-carboxy-7-hydroxycoumarin. The solution is cooled in an ice bath and added with 50 nmole of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride. After addition the mixture was stirred at 4° C. for one hour and chromatographed on a 2.5 c 50 cm column of SEPHAEX® G-50. The absorbance of the conjugate is monitored at 345 nm to yield a solution of coumarin labeled antibody.

reactant | 3-carboxy-7-hydroxycoumarin | 50 nmole | C(=O)(O)C=1C(OC2=CC(=CC=C2C1)O)=O | C10H6O5
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 50 nmole | Cl.C(C)N=C=NCCCN(C)C
product | coumarin | O1C(=O)C=CC2=CC=CC=C12 | C9H6O2
